US08242104B2
Step 4: Methyl 2-(4-cyano-1-isopropyl-1H-pyrazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate
A mixture of methyl 2-(tributylstannyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate (155 mg, 0.291 mmol), 5-amino-1-isopropyl-1H-pyrazole-4-carbonitrile (133 mg, 0.509 mmol) and Tetrakis(triphenylphosphine)palladium(0) (16.8 mg, 0.0145 mmol) in Toluene (6.0 mL, 56 mmol) was heated for 18 hours. The mixture was concentrated in vacuum, the residue purified on 4 g silica column eluting with 30% ethyl acetate in heptane. Yield 65 mg (59%). MS (ESI+): 378.2

reactant | methyl 2-(tributylstannyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate | 0.291 mmol, 155 mg | C(CCC)[Sn](C=1N=C2N(CCOC3=C2C=CC(=C3)C(=O)OC)C1)(CCCC)CCCC
reactant | 5-amino-1-isopropyl-1H-pyrazole-4-carbonitrile | 0.509 mmol, 133 mg | NC1=C(C=NN1C(C)C)C#N | C7H10N4
reactant | Toluene | 56 mmol, 6.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.0145 mmol, 16.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 2-(4-cyano-1-isopropyl-1H-pyrazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate | C(#N)C=1C=NN(C1C=1N=C2N(CCOC3=C2C=CC(=C3)C(=O)OC)C1)C(C)C | C20H19N5O3
